US08445673B2
Preparation of Sterile Doripenem Monohydrate
Doripenem (50 g) was dissolved in water (300 ml) by adding ammonia drop-wise to attain a pH of 8.5 to 9 at 15° to 20° C. The solution was treated with activated carbon (5 g) followed by micron filtration using a membrane (0.25 microns). The pH of the filtrate was adjusted to 5 to 5.5 with aqueous formic acid at 10° to 20° C. The mixture was stirred at 0° to 5° C. for 4 to 5 hours. Isopropyl alcohol (150 ml) was added slowly to the mixture and stirred for about 12 hours at 0° to 5° C. The mixture was filtered and dried at 40° to 50° C. to obtain the title compound.

reactant | Doripenem | 50 g | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)CNS(=O)(=O)N)C(=O)O)[C@@H](C)O | C15H24N4O6S2
reactant | ammonia | N | H3N
solvent | water | 300 ml | O | H2O
product | Doripenem Monohydrate | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)CNS(=O)(=O)N)C(=O)O)[C@@H](C)O.O | InChI=1S/C15H24N4O6S2.H2O/c1-6-11-10(7(2)20)14(21)19(11)12(15(22)23)13(6)26-9-3-8(17-5-9)4-18-27(16,24)25;/h6-11,17-18,20H,3-5H2,1-2H3,(H,22,23)(H2,16,24,25);1H2/t6-,7-,8+,9+,10-,11-;/m1./s1
